US09029545B2
4-Amino-2-bromo-3-(3-bromophenyl)-6-methylthieno[2,3-b]pyridine-5-carboxylic acid
To a solution of ethyl 4-amino-2-bromo-3-(3-bromophenyl)-6-methylthieno[2,3-b]pyridine-5-carboxylate (Description 47) (2.566 g, 5.46 mmol) in DMSO (25 mL) was added aqueous NaOH (2M) (13.64 mL, 27.3 mmol). The mixture was then heated at 150° C. for 1 h. After cooling to RT, the solution was diluted with water (40 mL) and acidified (ca. pH 4-5) with formic acid. The aqueous layer was then extracted with ethyl acetate (50 mL×3), and the combined organic layers were dried and concentrated. Water (excess) was then added to the residue, and a white precipitate crashed-out. The solution was filtered and the precipitate was collected and left to dry overnight in the vacuum oven, to give the title compound (1.861 g). LCMS (A) m/z: 443 [M+1]+, Rt 1.10 min (acidic).

reactant | ethyl 4-amino-2-bromo-3-(3-bromophenyl)-6-methylthieno[2,3-b]pyridine-5-carboxylate | 5.46 mmol, 2.566 g | NC1=C2C(=NC(=C1C(=O)OCC)C)SC(=C2C2=CC(=CC=C2)Br)Br | C17H14Br2N2O2S
reactant | NaOH | 27.3 mmol, 2M, 13.64 mL | [OH-].[Na+]
reactant | formic acid | C(=O)O | CH2O2
solvent | DMSO | 25 mL | CS(=O)C | C2H6OS
solvent | water | 40 mL | O | H2O
product | 4-Amino-2-bromo-3-(3-bromophenyl)-6-methylthieno[2,3-b]pyridine-5-carboxylic acid | 1.861 g | NC1=C2C(=NC(=C1C(=O)O)C)SC(=C2C2=CC(=CC=C2)Br)Br | C15H10Br2N2O2S
